US07557213B2
Step 2: 1-(4-Methoxy-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid
Experimental conditions analogous to those described for Step 4 of Example 60, from 3.10 g (8.80 mmol) of 1-(4-methoxy-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester, 40 mL of 1:1 methanol-water mixture and 0.44 g (18.3 mmol) of lithium hydroxide with a work-up consisting only of thorough evaporation of solvents.

reactant | 1-(4-methoxy-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 8.80 mmol, 3.10 g | C(C)OC(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=CC=C(C=C1)OC | C20H19NO4
reactant | lithium hydroxide | 18.3 mmol, 0.44 g | [OH-].[Li+]
solvent | methanol water | 40 mL | CO.O
product | 1-(4-Methoxy-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | COC1=CC=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)O)C=C1 | C18H15NO4
